US07642367B2
2-(2-Chloro-4-methoxy-phenyl)propionitrile
A solution of 2′-chloro-4′-methoxyacetophenone (18.5 g, 0.10 mol) and tosylmethylisocyanide (TOSMIC, 21.5 g, 0.11 mol) in dry 1,2-dimethoxyethane (100 mL) was cooled to −10° C. A solution of t-BuOK (22.4 g, 0.20 mol) in dry t-BuOH (250 mL) was added slowly keeping the temperature below 5° C. The homogeneous orange solution was stirred for 2 h/0° C. and 1 h/25° C. The resulting suspension was evaporated to a slurry. Water (200 mL) was added and extracted with Et2O (3×150 mL). The organic phase was dried (Na2SO4) and the solvent was removed under reduced pressure leaving an orange oil. Yield: 19 g (97%). GCMS: >98%

reactant | 2′-chloro-4′-methoxyacetophenone | 0.10 mol, 18.5 g | ClC1=C(C=CC(=C1)OC)C(C)=O | C9H9ClO2
reactant | tosylmethylisocyanide | 0.11 mol, 21.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | t-BuOK | 0.20 mol, 22.4 g | CC(C)(C)[O-].[K+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | t-BuOH | 250 mL | CC(C)(C)O | C4H10O
product | 2-(2-Chloro-4-methoxy-phenyl)propionitrile | ClC1=C(C=CC(=C1)OC)C(C#N)C | C10H10ClNO
